US07968570B2
A mixture of 4-trifluoromethoxy-benzyl amine (0.092 mL, 0.6 mmol), 2-bromomethyl-4-fluoro-6-iodo-benzoic acid methyl ester (0.181 g, 0.49 mmol), and K2CO3 (0.138 g, 1 mmol) in toluene was heated with stirring at 100° C. for 2 h. The resulting mixture was filtered and concentrated. Silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-fluoro-7-iodo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.080 g, 36%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.19 (s, 2H), 4.79 (s, 2H), 7.06-7.38 (m, 5H), 7.67 (d, 1H). GC-MS: m/z 451 (M)+, 382 (M−69)+.

reactant | 4-trifluoromethoxy-benzyl amine | 0.6 mmol, 0.092 mL | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
reactant | 2-bromomethyl-4-fluoro-6-iodo-benzoic acid methyl ester | 0.49 mmol, 0.181 g | COC(C1=C(C=C(C=C1I)F)CBr)=O | C9H7BrFIO2
reactant | K2CO3 | 1 mmol, 0.138 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-fluoro-7-iodo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.080 g, 36% | FC=1C=C2CN(C(C2=C(C1)I)=O)CC1=CC=C(C=C1)OC(F)(F)F | C16H10F4INO2
